US07030139B2
35E: 3-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid.
To a solution of methyl 3-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-3H-imidazo[4,5-b]pyridine-6-carboxylate (260 mg, 0.71 mmol) in THF/MeOH (1:1, 6 ml) was added 1 N NaOH (3 ml, 3 mmol). The reaction mixture was stirred at room temperature for 3 h, and concentrated in vacuo. The residue was dissolved in H2O (10 ml), and acidified by adding 1 N HCl solution to pH5. The solid was collected (230 mg), and the filtrate was extracted with EtOAc (2×50 ml). The extracts were dried over Na2SO4 and concentrated in vacuo to afford an additional crop of product (20 mg). The desired acid was produced in quantitative yield.

reactant | methyl 3-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-3H-imidazo[4,5-b]pyridine-6-carboxylate | 0.71 mmol, 260 mg | C1(CC1)CN1C(=NC=2C1=NC=C(C2)C(=O)OC)CC2=CC=C(C=C2)OCC | C21H23N3O3
reactant | NaOH | 3 mmol, 1 N, 3 ml | [OH-].[Na+]
solvent | THF MeOH | 6 ml | C1CCOC1.CO
product | 3-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid | 20 mg, quantitative yield | C1(CC1)CN1C(=NC=2C1=NC=C(C2)C(=O)O)CC2=CC=C(C=C2)OCC | C20H21N3O3
